US04486428
4-(2-Aminoethyl)-5-hydroxy-2,2-dimethyl-7-(5-phenyl-2-pentyloxy)-3,4-dihydro-2H-benzopyran
In a stirred flask, under nitrogen, was placed 17.5 g (0.043 mole) 2-methoxyamino-5,5-dimethyl-8-(5-phenyl-2-pentyloxy)-3,3a,4,5-tetrahydro-2H-pyrano[4,3,2-de]benzopyran in 1800 ml methanol. The mixture was warmed to 40° C. and 1080 ml 1N sodium hydroxide was added in portions over ten minutes. The mixture was heated to 55° C. and 20.4 g Raney Alloy (nickel/aluminum 1:1 by weight) was added in portions over ten minutes (foaming!). The resulting mixture was stirred at 55° C. for one hour, allowed to cool to room temperature and the catalyst removed by filtration. The filtrate was evaporated in vacuo to an oil which was combined with water and 6N hydrochloric acid added to adjust the mixture of pH 6-7. The neutralized mixture was extracted with ethyl acetate, the organic layer backwashed with brine, dried (MgSO4), filtered and the solvent evaporated at reduced pressure to provide 16.4 g crude product as an oil.

reactant | 2-methoxyamino-5,5-dimethyl-8-(5-phenyl-2-pentyloxy)-3,3a,4,5-tetrahydro-2H-pyrano[4,3,2-de]benzopyran | 0.043 mole, 17.5 g | CONC1CC2CC(OC3=C2C(=CC(=C3)OC(C)CCCC3=CC=CC=C3)O1)(C)C | C25H33NO4
reactant | sodium hydroxide | 1N, 1080 ml | [OH-].[Na+]
solvent | methanol | 1800 ml | CO | CH4O
catalyst | nickel aluminum | [Ni].[Al]
product | 4-(2-Aminoethyl)-5-hydroxy-2,2-dimethyl-7-(5-phenyl-2-pentyloxy)-3,4-dihydro-2H-benzopyran | 16.4 g | NCCC1CC(OC2=C1C(=CC(=C2)OC(C)CCCC2=CC=CC=C2)O)(C)C | C24H33NO3
